US07015328B2
3-Cyano-4-phenyl-2-oxo-2H-chromene
To a solution of 3-cyano-2-imino-4-phenyl-2H-chromene (90 mg, 0.37 mmol) in methanol (10 mL) was added 37% HCl (0.037 ml, 0.37 mmol). The mixture was stirred at room temperature for 2 h. The solvent was evaporated and the residue was purified by chromatography on silica gel with ethyl acetate and hexane (1:2) as eluant, yielding 35 mg (39%) of the title compound. 1H NMR (CDCl3): 7.80-7.74 (m, 1H), 7.66-7.60 (m, 3H), 7.57-7.54 (m, 1H), 7.47-7.44 (m, 2H), 7.41-7.32 (m, 2H).

reactant | 3-cyano-2-imino-4-phenyl-2H-chromene | 0.37 mmol, 90 mg | C(#N)C=1C(OC2=CC=CC=C2C1C1=CC=CC=C1)=N | C16H10N2O
reactant | HCl | 0.37 mmol, 0.037 ml | Cl | ClH
reactant | methanol | 10 mL | CO | CH4O
product | 3-Cyano-4-phenyl-2-oxo-2H-chromene | 35 mg, 39% | C(#N)C=1C(OC2=CC=CC=C2C1C1=CC=CC=C1)=O | C16H9NO2
